US05482951
A mixture of 51 g of 3-(2-chloro-6-fluorophenyl)-5-(4-methylphenyl)-1-methyl-1H-1,2,4-triazole, 33 g of N-bromosuccinimide, 1.0 g of benzoyl peroxide and 300 ml of carbon tetrachloride is heated under reflux for 5 hours. After the cooling, the solvent is distilled off to obtain 130 g of a crude product of 5-(4-bromomethylphenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole. This product is dissolved in 300 ml of N,N-dimethylformamide and added with 47 g of potassium acetate, which is stirred at 120° C. for 6 hours. After the completion of the reaction, the resulting product is poured in a great amount of water and extracted with ethyl acetate. The extract is washed with water and dried over anhydrous magnesium sulfate and the solvent is distilled off under a reduced pressure to obtain 5-(4-acetoxymethylphenyl)-3-(2-chloro-6-fluorophenyl)1-methyl-1H-1,2,4-triazole. This compound is dissolved in 300 ml of ethanol and added with 200 ml of 10% sodium hydroxide solution, which is heated under reflux for 1 hour. After the completion of the reaction, ethanol is distilled off under a reduced pressure and the residue is poured into water and extracted with ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate and concentrated under a reduced pressure to obtain 88 g of a given crude crystal. This crystal is recrystallized with ethanol to obtain 54.3 g of the given compound (melting point: 128.0°-130.0° C.).

reactant | 3-(2-chloro-6-fluorophenyl)-5-(4-methylphenyl)-1-methyl-1H-1,2,4-triazole | 51 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC=C(C=C1)C)C | C16H13ClFN3
reactant | N-bromosuccinimide | 33 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | potassium acetate | 47 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(4-acetoxymethylphenyl)-3-(2-chloro-6-fluorophenyl)1-methyl-1H-1,2,4-triazole | C(C)(=O)OCC1=CC=C(C=C1)C1=NC(=NN1C)C1=C(C=CC=C1F)Cl | C18H15ClFN3O2
